US07910613B2
60: 2-Cyclopentyl-N-[5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-acetamide
Prepared from 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine and cyclopentyl-acetyl chloride.

reactant | 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine | C(C)C1=NOC(=N1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C13H12N4OS
reactant | cyclopentyl-acetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
product | 2-Cyclopentyl-N-[5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-acetamide | C1(CCCC1)CC(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NO1)CC | C20H22N4O2S
